US08076329B2
A Following the procedure described in example 56A, but starting from 2-methyl-4-(4-hydroxyphenyl)pyridine hydrobromide (130 m g), potassium carbonate (415 g), (3S)-1-(3-methanesulfonyloxypropyl)-3-methylpiperidine hydrochloride (170 mg) and N,N-dimethylformamide (5 mL) gives 82 mg of 2-methyl-4-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyridine, dioxalate as a pale yellow powder melting at 97° C.

reactant | 2-methyl-4-(4-hydroxyphenyl)pyridine hydrobromide | Br.CC1=NC=CC(=C1)C1=CC=C(C=C1)O
reactant | potassium carbonate | 415 g | C([O-])([O-])=O.[K+].[K+]
reactant | (3S)-1-(3-methanesulfonyloxypropyl)-3-methylpiperidine hydrochloride | 170 mg | Cl.CS(=O)(=O)OCCCN1C[C@H](CCC1)C
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-methyl-4-(4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)pyridine | 82 mg | CC1=NC=CC(=C1)C1=CC=C(C=C1)OCCCN1C[C@H](CCC1)C | C21H28N2O
